US08492371B2
(R)-4-tert-butyl-1-((tetrahydrofuran-2-yl)methyl)pyridin-2(1H)-imine
A mixture of 4-tert-butylpyridin-2-amine (1.0 g, 6.7 mmol, LeadGen Labs), Example 11A (2.0 g, 8.0 mmol), and tetrabutylammonium iodide (1.2 g, 3.3 mmol) in N,N-dimethylformamide (1.3 mL) was heated at 95° C. for 16 hours. The reaction was incomplete as monitored by LC/MS. One more equivalent of both Example 11A and tetrabutylammonium iodide were added. After stirring at 95° C. for 16 hours, the reaction mixture was cooled and quenched with saturated NaHCO3 (10 mL). The aqueous layer was extracted with dichloromethane (3×30 mL). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to provide the title compound. MS (ESI+) m/z 235 (M+H)+.

reactant | 4-tert-butylpyridin-2-amine | 6.7 mmol, 1.0 g | C(C)(C)(C)C1=CC(=NC=C1)N | C9H14N2
reactant | N,N-dimethylformamide | 1.3 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 3.3 mmol, 1.2 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (R)-4-tert-butyl-1-((tetrahydrofuran-2-yl)methyl)pyridin-2(1H)-imine | C(C)(C)(C)C1=CC(N(C=C1)C[C@@H]1OCCC1)=N | C14H22N2O
